US04658037
N-Benzoyl-3-acetyl-2-oxindole-1-carboxamide
To a stirred slurry of 841 mg (3.0 mmole) of N-benzoyl-2-oxindole-1-carboxamide in 5 ml of N,N-dimethylformamide was added 806 mg (6.6 mmole) of 4-(N,N-dimethylamino)pyridine. Stirring was continued for a few minutes, and then the slurry was cooled in an ice-bath and a solution of 337 mg (3.3 mmole) of acetic anhydride in 2 ml of N,N-dimethylformamide was added dropwise. Stirring was continued for 1 hour, and then the reaction mixture was poured onto a mixture of 65-70 ml. of ice-water and 2.2 ml of 3N hydrochloric acid. The solid which precipitated was recovered by filtration. It was recrystallized from ethanol to give 385 mg of the title compound as tan crystals, mp 198° C.

reactant | N-benzoyl-2-oxindole-1-carboxamide | 3.0 mmole, 841 mg | C(C1=CC=CC=C1)(=O)NC(=O)N1C(CC2=CC=CC=C12)=O | C16H12N2O3
reactant | acetic anhydride | 3.3 mmole, 337 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 3N, 2.2 ml | Cl | ClH
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | 4-(N,N-dimethylamino)pyridine | 6.6 mmole, 806 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-Benzoyl-3-acetyl-2-oxindole-1-carboxamide | 385 mg | C(C1=CC=CC=C1)(=O)NC(=O)N1C(C(C2=CC=CC=C12)C(C)=O)=O | C18H14N2O4
